US08809363B2
Step 1: (S)-methyl 2-(tert-butoxy)-2-(4-(4-(difluoromethyl)phenyl)-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate
2-(4-(Difluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.04 g, 4.09 mmol), potassium phosphate (1.35 g, 6.36 mmol), water (750 μL) and dichloro [1,1′ bis(di-tert-butylphosphino)]ferrocene palladium (II)™ (101 mg, 155 μmol) were added to a stirred solution of (S)-methyl 2-(tert-butoxy)-2-(4-iodo-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate (750 mg, 1.58 mmol) in dioxane (11 mL) in a reaction tube. The reaction mixture was degassed with argon for 2 minutes, sealed and then stirred at 100° C. for 16 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (30 mL) and water (30 mL) and then passed through a pad of celite. The layers of the filtrate were separated and the aqueous layer was extracted with ethyl acetate (3×30 mL). The combined organic layers were dried (Na2SO4) and concentrated in vacuo to yield the crude product. The residue was purified by flash column chromatography eluting with ethyl acetate in heptane (10%) to give the title compound (639 mg, 85%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ=0.96 (s, 9H), 1.85-1.35 (m, 6H), 2.72 (s, 3H), 2.85-2.75 (m, 2H), 3.67 (s, 3H), 4.95 (s, 1H), 6.76 (t, 1H), 6.45 (d, 1H), 7.61-7.51 (m, 3H). LCMS (run time=5 minutes, basic): Rt=3.37 minutes; m/z 474.23 [M+H+].

reactant | 2-(4-(Difluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 4.09 mmol, 1.04 g | FC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C13H17BF2O2
reactant | potassium phosphate | 6.36 mmol, 1.35 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 750 μL | O | H2O
reactant | (S)-methyl 2-(tert-butoxy)-2-(4-iodo-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate | 1.58 mmol, 750 mg | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)I | C19H24INO3S
solvent | dioxane | 11 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro [1,1′ bis(di-tert-butylphosphino)]ferrocene palladium (II) | [Pd+2].ClC1=C([C-](C=C1)P(C(C)(C)C)C(C)(C)C)Cl.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
product | (S)-methyl 2-(tert-butoxy)-2-(4-(4-(difluoromethyl)phenyl)-2-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-b]pyridin-3-yl)acetate | 639 mg, 85% | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=CC=C(C=C1)C(F)F | C26H29F2NO3S
